US08247436B2
Step 1: 1,1,1-Trifluoro-3-methyl-2-(nitromethyl)butan-2-ol
A cooled (0° C.) solution of lithium hydroxide (0.048 g, 2.015 mmol) in water (20 ml) was stirred and treated with nitromethane (1.23 g, 20.15 mmol), 1,1,1-trifluoro-3-methylbutan-2-one (3.11 g, 22.17 mmol), cetyltrimethylammonium Chloride (0.871 g, 2.72 mmol) and MgSO4 (0.485 g, 4.03 mmol). The white suspension was stirred at 0° C. for 1 hr, then at RT for 2 days. The resulting biphasic mixture was separated and the more dense lower layer was collected and dissolved in diethyl ether (30 ml). The mixture was dried over MgSO4, filtered and concentrated in vacuo to give a pale yellow oil. The oil was taken up in diethyl ether (10 ml) and passed through a pre-packed SCX-2 cartridge eluting with 100% diethyl ether. The filtrate was concentrated in vacuo to afford the title compound as a colourless oil. 1H NMR (400 MHz, CDCl3):

reactant | lithium hydroxide | 2.015 mmol, 0.048 g | [OH-].[Li+]
reactant | nitromethane | 20.15 mmol, 1.23 g | [N+](=O)([O-])C | CH3NO2
reactant | 1,1,1-trifluoro-3-methylbutan-2-one | 22.17 mmol, 3.11 g | FC(C(C(C)C)=O)(F)F | C5H7F3O
reactant | MgSO4 | 4.03 mmol, 0.485 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | water | 20 ml | O | H2O
catalyst | cetyltrimethylammonium Chloride | 2.72 mmol, 0.871 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1,1,1-Trifluoro-3-methyl-2-(nitromethyl)butan-2-ol | FC(C(C(C)C)(O)C[N+](=O)[O-])(F)F | C6H10F3NO3
